US05691333
A solution of 0.297 gram (0.00261 mole) of 2-aminoethanethiol hydrochloride in 2.5 milliliters of methanol was added to 1.0 gram (0.00261 mole) of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbonitrile, and the mixture was stirred at room temperature for an approximately 17-hour period. The mixture was partitioned between water and dichloromethane and the organic layer was separated, dried over Na2SO4 and filtered. Solvent was evaporated leaving a residue which was purified by preparative thin-layer chromatography to give 0.186 gram (0.00042 mole) of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-(dihydro-2-thiazolyl)-4-methylsulfinyl-1H-pyrazole having a melting point of 189.5° C. (with decomposition). This compound is referred to hereinafter as Compound 1.

reactant | 2-aminoethanethiol hydrochloride | 0.00261 mole, 0.297 gram | Cl.NCCS
reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbonitrile | 0.00261 mole, 1.0 gram | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C | C12H7Cl2F3N4OS
solvent | methanol | 2.5 milliliters | CO | CH4O
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-(dihydro-2-thiazolyl)-4-methylsulfinyl-1H-pyrazole | 0.00042 mole, 0.186 gram | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1SC=CN1)S(=O)C | C14H11Cl2F3N4OS2
